US05488061
4-(1-Dodecynyl)-2-thiophenecarboxaldehyde
A solution of 1-dodecyne (23.9 g), 5-bromo-2-thiophenecarboxaldhyde (25.0 g) and triethylamine (39.7 g) in dry tetrahydrofuran (75 ml) was degasseal and stirred at room temperature under a nitrogen atmosphere. Two mole percent of bis(triphenylphosphine)palladium(II)chloride (1.8 g) followed by one mole percent of copper(I)iodide (0.25 g) was added. The mixture was degassed and stirred at room temperature under nitrogen for three days. The precipitate was filtered, and the filter cake was washed with ethyl acetate. The filtrate was evaporated, and the residue was flash chromatographed (silica, 7:3-Hexane:dichloromethane). The appropriate fractions were collected and evaporated. The residue was dried at 50° C. under vacuum for three hrs to give 35.5 g (98%) of product.

reactant | 1-dodecyne | 23.9 g | C#CCCCCCCCCCC | C12H22
reactant | 5-bromo-2-thiophenecarboxaldhyde | 25.0 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | triethylamine | 39.7 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 1.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)iodide | 0.25 g | [Cu]I
product | 4-(1-Dodecynyl)-2-thiophenecarboxaldehyde | 35.5 g, 98% | C(#CCCCCCCCCCC)C=1C=C(SC1)C=O | C17H24OS
